US09163027B2
5,7-diethyl-N-(2-phenoxyethyl)-[1,2,4]triazolo[1,5-a]pyrimidin-2-amine
A mixture of 2-methanesulfonyl-5,7-diethyl-[1,2,4]-triazolo[1,5-a]pyrimidine (4.5 g, 17.7 mmol) and 2-phenoxyethylamine (24.3 g, 177.2 mmol) was added to a 100 mL RBF with a magnetic stirring bar, and the flask was fitted with a condenser. The mixture was allowed to stir at 110-120° C. for 72 hours. Progress of the reaction was monitored by analytical HPLC with UV detection where the title compound eluted with retention time of 5.1 min. The reaction was allowed to cool to room temperature and partitioned between dichloromethane (150 mL) and 2 N HCl (100 mL). The acidic layer was extracted with dichloromethane (100 mL), and the combined organic layers were washed with saturated aqueous NaCl (75 mL). The NaCl layer was extracted with dichloromethane (75 mL), and the combined organic layers were dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude material was added to chloroform (25 mL) and methanol (0.5 mL), and a precipitate was removed by filtration. The material in the organic layer was purified by silica gel chromatography with a gradient elution of 0.75-3.0% ethanol in chloroform. Fractions were pooled and concentrated under reduced pressure, and the solid material was crystallized from hot ethanol (35 mL) to afford the title compound as an off white solid (3.26 g, 59% yield). 1H NMR (DMSO-d6, 400 MHz) δ ppm: 7.27 (m, 2H), 7.03 (t, 1H), 6.96 (m, 3H), 6.85 (s, 1H), 4.13 (t, 2H), 3.61 (q, 2H), 2.96 (q, 2H), 2.75 (q, 2H), 1.31 (t, 3H), 1.24 (t, 3H). EM (calc.): 311.2; MS (ESI) m/e: 312.3 (M+H)+.

reactant | 2-methanesulfonyl-5,7-diethyl-[1,2,4]-triazolo[1,5-a]pyrimidine | 17.7 mmol, 4.5 g | CS(=O)(=O)C1=NN2C(N=C(C=C2CC)CC)=N1 | C10H14N4O2S
reactant | 2-phenoxyethylamine | 177.2 mmol, 24.3 g | O(C1=CC=CC=C1)CCN | C8H11NO
product | 5,7-diethyl-N-(2-phenoxyethyl)-[1,2,4]triazolo[1,5-a]pyrimidin-2-amine | C(C)C1=NC=2N(C(=C1)CC)N=C(N2)NCCOC2=CC=CC=C2 | C17H21N5O
